US04444867
5-(3'-nitro-4'-fluorobenzoylamino)-1-naphthol
22.4 g of 3-nitro-4-fluorobenzoyl chloride (0.12 mols) were added dropwise at 0° C. to a suspension of 19.1 g of 5-amino-1-naphthol (0.12 mols) in 120 ml of acetonitrile and 14.2 g of N,N-dimethylaniline. The mixture was further stirred until it reached room temperature, and then heated for 30 minutes at 50° C. The yellow deposit was suction filtered and washed with acetonitrile. The deposit was dissolved in tetrahydrofurane and stirred with charcoal, filtered and the product was precipitated from the filtrate with petrol 50/75. Yield: 25.8 g=66% of the theoretical yield; mp. 235°-238° C.

reactant | 3-nitro-4-fluorobenzoyl chloride | 0.12 mols, 22.4 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1F | C7H3ClFNO3
reactant | 5-amino-1-naphthol | 0.12 mols, 19.1 g | NC1=C2C=CC=C(C2=CC=C1)O | C10H9NO
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | N,N-dimethylaniline | 14.2 g | CN(C1=CC=CC=C1)C | C8H11N
product | 5-(3'-nitro-4'-fluorobenzoylamino)-1-naphthol | [N+](=O)([O-])C=1C=C(C(=O)NC2=C3C=CC=C(C3=CC=C2)O)C=CC1F | C17H11FN2O4
